US04271294
(2,2-di-(2-piperidinoethoxy)-1,2-diphenyl-ethanone)
With stirring, 35 g (0.1 mole) of benzil-di-(2-chloroethyl)ketal and 77 g (0.9 mole) of piperidine are kept for 7 hours at 105° C. After cooling, the reaction mixture is diluted with ether and the piperidine hydrochloride is collected by filtration. The ether is distilled off and the residual oil is dried in a high vacuum.

reactant | benzil-di-(2-chloroethyl)ketal | 0.1 mole, 35 g | ClCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCCl | C18H18Cl2O3
reactant | piperidine | 0.9 mole, 77 g | N1CCCCC1 | C5H11N
solvent | ether | CCOCC | C4H10O
product | 2,2-di-(2-piperidinoethoxy)-1,2-diphenyl-ethanone | N1(CCCCC1)CCOC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OCCN1CCCCC1 | C28H38N2O3
